US07163947B2
A solution of 4-chloro-3-nitroquinoline (5.00 g, 24.0 mmol) in 120 mL of anhydrous CH2Cl2 was treated with triethylamine (6.7 mL, 48.2 mmol) and tert-butyl carbazate (3.20 g, 24.2 mmol). After stirring under nitrogen for 2.5 hour (h), an additional portion of tert-butyl carbazate (3.2 g, 24.2 mmol) was added. After stirring overnight, the deep red solution was washed with H2O (2×) and brine. The organic portion was dried over Na2SO4 and concentrated to give a red foam. The material was passed through a SiO2 column eluting with 2.5% methanol/CH2Cl2. The resulting red powder was treated with 5:1 hexanes/CH2Cl2 and filtered. The solid was washed several times with hexanes and was dried under vacuum to give tert-butyl N′-(3-nitroquinolin-4-yl)hydrazinecarboxylate (4.97 g) as an orange powder.

reactant | 4-chloro-3-nitroquinoline | 24.0 mmol, 5.00 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | triethylamine | 48.2 mmol, 6.7 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl carbazate | 24.2 mmol, 3.20 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | tert-butyl carbazate | 24.2 mmol, 3.2 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N′-(3-nitroquinolin-4-yl)hydrazinecarboxylate | 4.97 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NNC(=O)OC(C)(C)C | C14H16N4O4
